US04602016
A mixture of ethyl 4-[2-(1-imidazolyl)ethoxy]phenoxyacetate free base (1.0 g), ethanol (10 ml) and concentrated ammonia solution (20 ml) was allowed to stand at room temperature for 20 hours to give a clear solution. The solution was evaporated and the residue was crystallized twice from 2-butanone to give 4-[2-(1-imidazolyl)ethoxy]phenoxyacetamide (0.38 g), m.p. 123°-124° C. Found: C, 59.70; H, 5.77; N, 16.26. C13H15N3O3 requires: C, 59.76; H, 5.79; N, 16.08%.

reactant | ethyl 4-[2-(1-imidazolyl)ethoxy]phenoxyacetate | 1.0 g | N1(C=NC=C1)CCOC1=CC=C(OCC(=O)OCC)C=C1 | C15H18N2O4
reactant | ammonia | 20 ml | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[2-(1-imidazolyl)ethoxy]phenoxyacetamide | 0.38 g | N1(C=NC=C1)CCOC1=CC=C(OCC(=O)N)C=C1 | C13H15N3O3
